US04222937
A solution of methyl 3,7-dimethyl-4-nitro-6-octenoate (24.55 g, 0.107 m) in methanol (10 ml) is added dropwise to a solution of sodium methoxide (6.37 g, 0.118 m) in methanol (250 ml) at room temperature under nitrogen. The mixture is stirred for 1 hour, added to a mixture of 20% titanous chloride (170 ml, 0.267 m) and pH 7 buffer (potassium phosphate monobasic-sodium hydroxide buffer) solution (340 ml). The resulting mixture is stirred for 30 minutes after which it is treated with ether (1 l). The organic phase is separated, dried (Na2SO4) and evaporated in vacuo to give the crude product (15.4 g). This material is purified by column chromatography on silica gel (300 g, 2% ethyl acetate in hexane) to give methyl 3,7-dimethyl-4-oxo-6-octenoate as a colorless liquid (6.8 g, 35%).

reactant | methyl 3,7-dimethyl-4-nitro-6-octenoate | 24.55 g | CC(CC(=O)OC)C(CC=C(C)C)[N+](=O)[O-] | C11H19NO4
reactant | sodium methoxide | 6.37 g | C[O-].[Na+]
reactant | potassium phosphate monobasic sodium hydroxide | OP(=O)(O)[O-].[K+].[OH-].[Na+]
reactant | ether | 1 l | CCOCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
catalyst | titanous chloride | 170 ml | [Cl-].[Cl-].[Ti+2]
product | methyl 3,7-dimethyl-4-oxo-6-octenoate | 6.8 g, 35% | CC(CC(=O)OC)C(CC=C(C)C)=O | C11H18O3
